* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP2\Ej3\Simulacion\ej3.asc
XDUT feedback N002 vcc+ vcc- N004 tl081
XXD 0 N001 vcc+ vcc- out lf356
R1 N001 N004 100k
C1 out N001 100n
R3 N003 0 10
R4 feedback 0 10
R2 feedback feedback 1Meg
R5 N002 N003 1Meg
V1 vcc+ 0 15v
V2 0 vcc- 15v
R6 out feedback 6k
.inc "opamp/tl081.mod"
.inc "opamp/lf356.mod"
.tran 0.01
.backanno
.end
