* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP2\Ej3\Simulacion\ej3.asc
XDUT feedback N002 vcc+ vcc- N003 lf356
XXD 0 N001 vcc+ vcc- out lf356
R1 N001 N003 100k
C1 out N001 100n
R3 N002 0 10
R4 feedback 0 10
V1 vcc+ 0 15v
V2 0 vcc- 15v
R6 out feedback 5k6
.inc "opamp/tl081.mod"
.inc "opamp/lf356.mod"
.tran 20
.backanno
.end
